US04332808
A solution of 8.2 g of 1-propyl-3-(1-methyl-1H-indol-4-yl)-3-piperidinol in 250 ml of 1 N hydrochloric acid was refluxed for 4 hours and while cooling in an ice bath, sodium hydroxide solution was added thereto until the pH was alkaline. The mixture was extracted with methylene chloride and the organic phase was washed with aqueous sodium chloride solution, dried and evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and was eluted with a 9-1 cyclohexane-triethylamine mixture to obtain 6.2 g of 1-methyl-4-(1-propyl-1,2,5,6-tetrahydropyridin-3-yl)-1H-indole with an Rf=0.2.

reactant | 1-propyl-3-(1-methyl-1H-indol-4-yl)-3-piperidinol | 8.2 g | C(CC)N1CC(CCC1)(O)C1=C2C=CN(C2=CC=C1)C | C17H24N2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 1 N, 250 ml | Cl | ClH
product | 1-methyl-4-(1-propyl-1,2,5,6-tetrahydropyridin-3-yl)-1H-indole | 6.2 g | CN1C=CC2=C(C=CC=C12)C=1CN(CCC1)CCC | C17H22N2
